US06069158
b) (±)-10,11-Dihydro-3-[2-[6-(ethylamino)-2-pyridyl]-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetic acid
Ethyl (±)-10,11-dihydro-3-[2-[6-(ethylamino)-2-pyridyl]-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetic acid (80 mg, 0.18 mmol) was dissolved in MeOH (3 mL), and 1.0 N NaOH (0.22 mL, 0.22 mmol) was added. The solution was stirred at RT overnight, then was concentrated in vacuum. The residue was dissolved in H2O (3 mL), and the solution was acidified with 20% TFA. Chromatography on C-18 Bond Elute (30% CH3CN/H2O containing 0. 1% TFA) gave the title compound as a white solid: MS(ES) 417 (M+H)+. Anal. Calcd for C26H28N2O3 . 1.3 OF3CO2H: C, 60.83; H, 5.23; N, 4.96. Found: C, 60.64; H, 5.26; N, 4.26.

reactant | Ethyl (±)-10,11-dihydro-3-[2-[6-(ethylamino)-2-pyridyl]-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetic acid | 0.18 mmol, 80 mg | C(C)C1=CC(=CC=2CC3=C(C(CC21)CC(=O)O)C=CC=C3)OCCC3=NC(=CC=C3)NCC | C28H32N2O3
reactant | NaOH | 0.22 mmol, 1.0 N, 0.22 mL | [OH-].[Na+]
solvent | MeOH | 3 mL | CO | CH4O
product | (±)-10,11-Dihydro-3-[2-[6-(ethylamino)-2-pyridyl]-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetic acid | C(C)NC1=CC=CC(=N1)CCOC=1C=CC2=C(CC3=C(C(C2)CC(=O)O)C=CC=C3)C1 | C26H28N2O3
